US04657915
A mixture containing 12.5 g of 5-bromo-1,6-naphthyridin-2(1H)-one, 300 ml of dimethylformamide, 13.8 g of anhydrous potassium carbonate, 10.8 g of 4,5-dimethylimidazole and 200 mg of cuprous bromide was refluxed with stirring for eight hours About 20 ml of the solvent was distilled off using a water separator to remove any moisture from the reaction mixture. The remaining reaction mixture was concentrated on a rotary evaporator. The residue was dissolved in water, acidified with acetic acid and evaporated to dryness on a rotary evaporator. The residue was treated with 50 ml of water and the brown solid was collected, washed with water, recrystallized from ethanol in the presence of decolorizing charcoal. The resulting pale yellow solid was dried at 80°-85° C. to yield 6.4 g of 5-(4,5-dimethyl-1H-imidazol-1-yl)-1,6-naphthyridin-2(1H)-one, m.p. 256°-258° C.

reactant | 5-bromo-1,6-naphthyridin-2(1H)-one | 12.5 g | BrC1=C2C=CC(NC2=CC=N1)=O | C8H5BrN2O
reactant | potassium carbonate | 13.8 g | C([O-])([O-])=O.[K+].[K+]
reactant | 4,5-dimethylimidazole | 10.8 g | CC=1N=CNC1C | C5H8N2
solvent | dimethylformamide | 300 ml | CN(C=O)C | C3H7NO
product | 5-(4,5-dimethyl-1H-imidazol-1-yl)-1,6-naphthyridin-2(1H)-one | 6.4 g | CC=1N=CN(C1C)C1=C2C=CC(NC2=CC=N1)=O | C13H12N4O
